US08258138B2
i) (4-Amino-phenyl)-(2-phenyl-morpholin-4-yl)-methanone
To a stirred suspension of benzoic acid (160 mg, 1 mmol) and 2-phenylmorpholine hydrochloride (300 mg, 1.5 mmol) in acetonitrile (10 ml) was added triethylamine (0.4 ml, 3 mmol) followed by HATU and the reaction mixture was stirred at room temperature for 16 hours. The reaction was diluted with dichloromethane (25 ml) and washed with sodium hydrogen carbonate (25 ml, saturated solution). The organics were collected, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with ethylacetate to afford the title compound as a clear oil (240 mg, 84% yield). HPLC retention time 5.05 min. Mass spectrum (ES+) m/z 283 (M+H).

reactant | benzoic acid | 1 mmol, 160 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-phenylmorpholine hydrochloride | 1.5 mmol, 300 mg | Cl.C1(=CC=CC=C1)C1CNCCO1
reactant | triethylamine | 3 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (4-Amino-phenyl)-(2-phenyl-morpholin-4-yl)-methanone | 240 mg, 84% yield | NC1=CC=C(C=C1)C(=O)N1CC(OCC1)C1=CC=CC=C1 | C17H18N2O2
